US07605289B2
To (S)—N-(4-(2-cyanoethyl)cyclohexyl)-N-cyclopropyl-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide prepared above (0.040 g, 0.098 mmol) and KOH (0.55 g, 0.98 mmol) was added tert-butanol (3.75 mL). The mixture was heated to 85° C. and stirred for 15 h. The solution was diluted with water (10 mL) and extracted with 10% MeOH in CH2Cl2 (2×15 mL). The combined organics were dried over Na2SO4 and removed in vacuo. Silica gel chromatography (gradient of 0-10% MeOH in CH2Cl2) afforded (S)—N-(4-(3-amino-3-oxopropyl)cyclohexyl)-N-cyclopropyl-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide. 1H NMR (500 MHz, CD3OD): δ 0.45 (bs, 2H), 0.58 (bs, 2H), 1.05-1.15 (m, 2H), 1.27-1.48 (m, 2H), 1.51-1.59 (m, 2H), 1.77 (s, 3H), 1.90-2.00 (m, 5H), 2.25-2.28 (m, 2H), 2.71 (bs, 1H), 4.00 (bs, 1H), 7.52 (d, J=8 Hz, 2H), 7.70 (d, J=8 Hz, 2H).

reactant | (S)—N-(4-(2-cyanoethyl)cyclohexyl)-N-cyclopropyl-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide | C(#N)CCC1CCC(CC1)N(C(C1=CC=C(C=C1)[C@](C(F)(F)F)(C)O)=O)C1CC1 | C22H27F3N2O2
reactant | KOH | 0.98 mmol, 0.55 g | [OH-].[K+]
reactant | tert-butanol | 3.75 mL | C(C)(C)(C)O | C4H10O
solvent | water | 10 mL | O | H2O
product | (S)—N-(4-(3-amino-3-oxopropyl)cyclohexyl)-N-cyclopropyl-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide | NC(CCC1CCC(CC1)N(C(C1=CC=C(C=C1)[C@](C(F)(F)F)(C)O)=O)C1CC1)=O | C22H29F3N2O3
